US07696215B2
To a stirred solution of 3-[6-(2-chloroethoxy)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid (0.50 g), 1,4-oxazepane hydrochloride (0.77 g), N,N-diisopropylethylamine (0.98 ml) and KI (0.47 g) in DMA (2 ml) was heated to 120° C. for 30 minutes in a microwave (Personal Chemistry Emrys Optimizer with 300 W magnetron). The reaction mixture was diluted with methylene chloride (20 ml), CombiZorb isocyanate resin (loading 1.03 mmol/g from Agilent) (6 g) added and stirred at room temperature for 16 hours. The resin was removed by filtration and the filtrate washed with water (50 ml). The aqueous phase was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give 4-methyl-3-[6-[2-(1,4-oxazepan-4-yl)ethoxy]-4-oxoquinazolin-3(4H)-yl]benzoic acid (0.31 g); NMR Spectrum: (DMSOd6) 1.87 (m, 2H), 2.10 (s, 3H), 2.91 (m, 2H), 3.02 (m, 4H), 3.66 (m, 4H), 4.20 (m, 2H), 7.46 (m, 2H), 7.58 (s, 1H), 7.69 (d, 1H), 7.81 (s, 1H), 7.93 (d, 1H), 8.16 (s, 1H); Mass Spectrum: M+H+ 424.

reactant | 3-[6-(2-chloroethoxy)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | 0.50 g | ClCCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C18H15ClN2O4
reactant | 1,4-oxazepane hydrochloride | 0.77 g | Cl.O1CCNCCC1
reactant | N,N-diisopropylethylamine | 0.98 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isocyanate | 6 g | [N-]=C=O
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-3-[6-[2-(1,4-oxazepan-4-yl)ethoxy]-4-oxoquinazolin-3(4H)-yl]benzoic acid | 0.31 g | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)OCCN1CCOCCC1 | C23H25N3O5
